* CDZV3_6B D model
* PKG: VMN2M,Vz=3.6V at Iz=5mA,Pd=100mW
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2015/09/02
*****************A C
.SUBCKT CDZV3_6B 1 2
.PARAM T0=25
.FUNC I1(V) {IF(V<0,-7.082E-08*((-V*(1+5.404E-04*(TEMP-T0)+3.186E-08*(TEMP-T0)**2))**8.432E+00+
+           (-V*(1+4.704E-04*(TEMP-T0)+3.186E-08*(TEMP-T0)**2))**6.419E+00),0)}
R1 1 2 1E15
E1 3 0 VALUE={V(1,2)}
V1 3 4 0
D1 4 0 D1
V2 3 5 0
D2 5 0 D2
G1 1 2 VALUE={I1(V(3))+I(V1)-I(V2)*IF(V(3)<0,1,0)}
.MODEL D1 D
+ IS=2.6374E-16
+ N=1.0071
+ RS=.23711
+ IKF=1.2305
+ CJO=6.1397E-11
+ M=.33592
+ VJ=.65022
+ ISR=1.1060E-11
+ NR=4.8000
+ BV=4.3000
+ TT=3.3000E-8
+ NBVL=1.7500
+ IBVL=5.0000
.MODEL D2 D
+ IS=2.6374E-16
+ N=1.0071
+ RS=.23711
+ IKF=1.2305
+ M=.33592
+ VJ=.65022
.ENDS CDZV3_6B


