* KDZV3_6B D model
* PKG: PMDU,Vz=3.6V at Iz=40mA,Pd=1W
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2015/09/08
*****************A C
.SUBCKT KDZV3_6B 1 2
.PARAM T0=25
.FUNC I1(V) {IF(V<0,-1.564E-07*((-V*(1+6.172E-04*(TEMP-T0)+1.165E-13*(TEMP-T0)**2))**0.932E+01+
+           (-V*(1+3.172E-04*(TEMP-T0)+1.165E-13*(TEMP-T0)**2))**6.964E+00),0)}
R1 1 2 1E15
E1 3 0 VALUE={V(1,2)}
V1 3 4 0
D1 4 0 D1
V2 3 5 0
D2 5 0 D2
G1 1 2 VALUE={I1(V(3))+I(V1)-I(V2)*IF(V(3)<0,1,0)}
.MODEL D1 D
+ IS=3.3290E-15
+ N=.98962
+ RS=4.3701E-3
+ IKF=.36806
+ CJO=1.3050E-9
+ M=.27519
+ VJ=.54271
+ ISR=8.425E-11
+ NR=4.0900
+ BV=4.6000
+ IBV=10.000
+ TT=7.2140E-8
+ NBV=0.5000
+ NBVL=2.5000
+ IBVL=1.0000
.MODEL D2 D
+ IS=3.3290E-15
+ N=.98962
+ RS=4.3701E-3
+ IKF=.36806
+ M=.27519
+ VJ=.54271
.ENDS KDZV3_6B































