* PSpice Model Editor - Version 16.2.0
*$
* LP38691_3P3
*****************************************************************************
* (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: LP38691_3P3
* Date: 24MAR2014 
* Model Type: Transient
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide:
* Datasheet: SNVS321K–JANUARY 2005–REVISED APRIL 2013
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
.SUBCKT LP38691_3P3_TRANS IN SNS OUT GND
R_R6         N242982 VYY  10 TC=0,0 
C_U1_C2         0 U1_N05382  1n  
V_U1_V4         U1_N12783 0 {UVLO}
X_U1_U1         IN U1_N11911 U1_N11626 U1_N11113 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
E_U1_ABM4         U1_N09035 0 VALUE { V(U1_N05348)  
+ * (ABS(V(OUT)) + 1e-6)  
+ / (ABS(V(N222934)) + 1e-6)  }
C_U1_C1         0 U1_N05348  {1e-6*SQRT(TTRN)}  
R_U1_R1         GND U1_N05348  1G  
X_U1_U2         IN U1_N12783 U1_N12664 U1_N13377 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
V_U1_V2         U1_N11911 0 {VENB}
V_U1_V3         U1_N12664 0 {UHYS}
V_U1_V1         U1_N11626 0 {EHYS}
R_U1_R5         U1_N09745 N222524  10 TC=0,0 
R_U1_R3         U1_N08164 U1_N05348  {3.333e5*SQRT(TTRN)} TC=0,0 
C_U1_C3         0 N222524  1n  
R_U1_R2         GND U1_N05382  1G  
E_U1_ABM6         U1_N08164 0 VALUE { IF(V(U1_N13377)> 0.6 & V(U1_N11113) >
+  0.6, {VREF}, 0)    }
E_U1_ABM5         U1_N09745 0 VALUE { MIN(V(U1_N05382),  
+ MAX(V(IN) - {DROP}, 0))   }
R_U1_R4         U1_N09035 U1_N05382  10 TC=0,0 
C_C3         0 VYY  1n  
E_E1         ILIM 0 TABLE { V(IN, OUT) } 
+ ( (0,850m) (2,850m) (4,850m) (5,350m) )
R_R5         VZZ VYY  {ROUT}  
E_ABM1         N242982 0 VALUE { MIN(V(VXX), (V(Vzz)+(V(ILIM)*ROUT)))    }
R_R1         VXX IN  {RINP}  
X_F1    VZZ OUT IN VYY LP38691_3P3_F1 
R_R2         N222524 VXX  {PSRR*RINP}  
R_R3         GND N222934  30.1k  
C_C1         VXX IN  {1/(6.28*RINP*POLE)}  
R_R4         N222934 SNS  49.364k  
C_C2         VXX N222524  {1/(6.28*PSRR*RINP*ZERO)}  
.PARAM  psrr=1.7782e-3 uvlo=2.7 venb=0 pole=300 zero=10k rinp=1e7 ttrn=1e-4
+  rout=1e-2 vref=1.25 ehys=0.1 drop=250m uhys=0.1
.ENDS LP38691_3P3_TRANS
*$
.subckt LP38691_3P3_F1 1 2 3 4  
F_F1         3 4 VF_F1 1
VF_F1         1 2 0V
.ends LP38691_3P3_F1
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$